US07713979B2
Place 2-hydroxy-3,3-dimethyl-cyclopentanone (1.044 g, 7.86 mmol), cyclohexylamine (1.91 ml, 16.51 mmol) and toluenesulfonic acid monohydrate (0.152 g, 0.1 mmol) in EtOH (4 mL) in a microwave reactor. Stir for 1 hour at 150° C. Quench with 1N HCl and extract with ethyl acetate. Wash the extract with NaHCO3, brine. Dry over magnesium sulfate, filter, and concentrate to afford N-cyclohexyl-2,4-dihydroxy-3,3-dimethyl-butyramide.

reactant | 2-hydroxy-3,3-dimethyl-cyclopentanone | 7.86 mmol, 1.044 g | OC1C(CCC1(C)C)=O | C7H12O2
reactant | cyclohexylamine | 16.51 mmol, 1.91 ml | C1(CCCCC1)N | C6H13N
reactant | toluenesulfonic acid monohydrate | 0.1 mmol, 0.152 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
solvent | EtOH | 4 mL | CCO | C2H6O
product | N-cyclohexyl-2,4-dihydroxy-3,3-dimethyl-butyramide | C1(CCCCC1)NC(C(C(CO)(C)C)O)=O | C12H23NO3
